US07214673B2
2-Methyl-11-[(S)-3-phenethyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Combine 2-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (600.0 mg, 2.31 mmol), (S)-2-phenethyl-piperazine (879.1 mg, 4.62 mmol), N,N-diisopropylethylamine (298.6 mg, 2.31 mmol), DMSO (1.0 ml), and toluene (4.0 ml). Stir and heat the mixture at 110° C. After 67 hours, cool the mixture to ambient temperature and then dilute it with ethyl acetate. Wash the organic layer with 0.1 N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using dichloromethane/methanol (90:10) to give 646.3 mg (71%) of a tan foam: mp 67°, dec; mass spectrum (ion spray): m/z=397.3 (M+1).

reactant | 2-methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 2.31 mmol, 600.0 mg | Cl.CC1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1
reactant | (S)-2-phenethyl-piperazine | 4.62 mmol, 879.1 mg | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
reactant | N,N-diisopropylethylamine | 2.31 mmol, 298.6 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 1.0 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-11-[(S)-3-phenethyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 646.3 mg, 71% | CC1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCC2=CC=CC=C2)C=CC=C3)C=C1 | C26H28N4
